US07244841B2
5,10,15-tris-(4-Hydroxy-phenyl)-20-(4-tetradecyloxy-phenyl)-porphyrin
5,10,15,20-tetrakis-(4-Hydroxy-phenyl)-porphyrin (170 mg, 0.25 mmol) is dissolved and K2CO3 (0.65 g, mmol) is suspended in DMF (30 mL). To the vigorously stirred reaction mixture a solution of 1-bromotetradecane (0.1 mL, 0.45 mmol) in DMF (10 mL) is added dropwise at 50° C. during 30 mins and the mixture is heated for 1.5 h. After evaporation of solvent, the residue is dissolved in toluene:ethanol (1:1 by vol., ca. 5 mL) and purified by chromatography using a column (5×25 cm) of silica gel (Merck 60) which is washed with toluene. After the elution of the first 3 fractions, elution is continued using toluene:ethyl acetate (2:1 by vol.). The fifth compound eluted is collected, the solvent evaporated and the residue dried under high vacuum to afford product as violet crystals.

reactant | 5,10,15,20-tetrakis-(4-Hydroxy-phenyl)-porphyrin | 0.25 mmol, 170 mg | OC1=CC=C(C=C1)C=1C2=CC=C(N2)C(=C2C=CC(C(=C3C=CC(=C(C=4C=CC1N4)C4=CC=C(C=C4)O)N3)C3=CC=C(C=C3)O)=N2)C2=CC=C(C=C2)O | C44H30N4O4
reactant | K2CO3 | 0.65 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-bromotetradecane | 0.45 mmol, 0.1 mL | BrCCCCCCCCCCCCCC | C14H29Br
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 5,10,15-tris-(4-Hydroxy-phenyl)-20-(4-tetradecyloxy-phenyl)-porphyrin | OC1=CC=C(C=C1)C=1C2=CC=C(N2)C(=C2C=CC(C(=C3C=CC(=C(C=4C=CC1N4)C4=CC=C(C=C4)O)N3)C3=CC=C(C=C3)O)=N2)C2=CC=C(C=C2)OCCCCCCCCCCCCCC | C58H58N4O4
